US07563787B2
N4-(2-(dimethylamino)ethyl)-N6-(5-methyl-1H-pyrazol-3-yl)-2-styrylpyrimidine-4,6-diamine
Example 66 was synthesized via Scheme 6 according to the general scheme provided above with the appropriate starting materials cinnamonitrile, 5-methyl-1H-pyrazole-3-amine, and N1,N1-dimethylethane-1,2-diamine. Structure of the target was confirmed by 1H-NMR. The 1H-NMR is attached.

reactant | cinnamonitrile | C(C=CC1=CC=CC=C1)#N | C9H7N
reactant | 5-methyl-1H-pyrazole-3-amine | CC1=CC(=NN1)N | C4H7N3
reactant | N1,N1-dimethylethane-1,2-diamine | CN(CCN)C | C4H12N2
product | N4-(2-(dimethylamino)ethyl)-N6-(5-methyl-1H-pyrazol-3-yl)-2-styrylpyrimidine-4,6-diamine | CN(CCNC1=NC(=NC(=C1)NC1=NNC(=C1)C)C=CC1=CC=CC=C1)C | C20H25N7
